### PR TITLE
[Merged by Bors] - feat: Finset.max'_eq_iff

### PR DESCRIPTION
**Pull request by joelriou**
This PR add two lemmas which give characterizations of `Finset.max'/min'`. (This will be used in some future cosimplicial construction.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Max.lean [hunk 1]
```diff
@@ -245,6 +245,22 @@ theorem min'_eq_inf' : s.min' H = s.inf' H id := rfl
...
+  · rintro ⟨h₁, h₂⟩
+    exact le_antisymm (min'_le _ _ h₁) (by rwa [le_min'_iff])
+
+lemma max'_eq_iff (a : α) :
+    s.max' H = a ↔ a ∈ s ∧ ∀ (b : α), b ∈ s → b ≤ a := by
+  constructor
+  · rintro rfl
+    exact ⟨max'_mem _ _, le_max' _⟩
+  · rintro ⟨h₁, h₂⟩
+    exact le_antisymm (by rwa [max'_le_iff]) (le_max' _ _ h₁)
```
Comment (kckennylau) [inline Mathlib/Data/Finset/Max.lean]:
```suggestion
lemma min'_eq_iff (a : α) : s.min' H = a ↔ a ∈ s ∧ ∀ (b : α), b ∈ s → a ≤ b :=
  ⟨(· ▸ ⟨min'_mem _ _, min'_le _⟩), fun h ↦ le_antisymm (min'_le _ _ h.1) (le_min' _ _ _ h.2)⟩

lemma max'_eq_iff (a : α) : s.max' H = a ↔ a ∈ s ∧ ∀ (b : α), b ∈ s → b ≤ a :=
  ⟨(· ▸ ⟨max'_mem _ _, le_max' _⟩), fun h ↦ le_antisymm (max'_le _ _ _ h.2) (le_max' _ _ h.1)⟩
```

**Comment by bryangingechen** [comment]
Thanks!
bors r+
